US08242133B2
To a mixture of 0.69 g of N-[2-hydroxy-5-(trifluoromethylthio)phenyl]isonicotinamide, 9 ml of tetrahydrofuran, and 0.63 g of triphenylphosphine, 1.05 g of 40% toluene solution of diethyl azodicarboxylate was added dropwise at room temperature and stirred for three hours. To the mixture, 0.21 g of triphenylphosphine and 0.35 g of 40% toluene solution of diethyl azodicarboxylate were added. The reaction mixture was stirred for further two hours. The reaction mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and the resultant crystals were washed with methanol to give 0.17 g of 2-(pyridin-4-yl)-5-(trifluoromethylthio)benzoxazole (hereinafter, referred to as “active compound 76”).

reactant | N-[2-hydroxy-5-(trifluoromethylthio)phenyl]isonicotinamide | 0.69 g | OC1=C(C=C(C=C1)SC(F)(F)F)NC(C1=CC=NC=C1)=O | C13H9F3N2O2S
reactant | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
reactant | triphenylphosphine | 0.63 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 0.35 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.05 g | C1(=CC=CC=C1)C | C7H8
product | 2-(pyridin-4-yl)-5-(trifluoromethylthio)benzoxazole | 0.17 g | N1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)SC(F)(F)F | C13H7F3N2OS
